Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Keflex
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presenting after an unwitnessed fall. He reports that he got 
up from a nap at approximately 5pm, stood up from bed and fell. 
He denies dizziness, lightheadedness or palpitations, is unsure 
whether he lost consciousness. Reports similar episodes, most 
recently one year ago, although per history form sent from 
___ (where he lives) it sounds like he may have been 
having falls more frequently. Per his friend, who accompanied 
him to the hospital, he may be dehydrated as he has been keeping 
his room at 88 degrees and it appears that his furosemide dose 
was recently increased.  
No recent illness, no fevers, chills, sweats. No dyspnea, cough, 
nausea, vomiting, diarrhea, dysuria, urinary frequency. Denies 
any numbness or tingling. No focal weakness. He does have a 
history of chronic lower leg ulcers but his friend states that 
they are at their baseline.  
In the ED intial vitals were: 98 90 177/87 18 98% ra  
- Labs were significant for WBC 20.6, creatinine 1.5  
CT Head showed no intracranial process, CT Chest and C spine 
also showed no acute findings.  
On the floor patient complains of neck pain, wants to sleep. 
Otherwise no complaints.  
 
Review of Systems:  
(+) sore neck  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
# Hypertension  
# Chronic venous stasis with leg ulcers  
# BPH  
# back pain  
# falls  
# restless leg syndrome  

 
Social History:
___
Family History:
No history of early MI, SCD, CHF, PAD, AAA, strokes, varicose 
veins. + history of HTN. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- 98.0, 159/64, 87, 18, 96%/RA  
General- pleasant elderly man, NAD  
HEENT- PERRL, EOMI, face symmetric, dry MM  
Neck- JVP not elevated  
Lungs- CTA bilaterally  
CV- RRR, no murmurs  
Abdomen- soft, NTND  
Ext- no edema. multiple wounds on both legs with erythema  
Neuro- alert and oriented to person, place, month/year  

DISCHARGE PHYSICAL EXAM:
VS: T 98.3, BP 164/65 (SBP 137-164), 68 (61-76), 18, 97%RA
General: Well-appearing male, NAD, flat affectect
HEENT: PERRL, NACT, MMM
Neck: Supple, JVD not elevated
Heart: RRR, no MRG, nl S1 and S2
Lungs: LCTA-bl, no w/r/r
Abd: Distended, +ubilical hernia, +NABS, not tender
Ext: FROM, +weeping erythema in ___ bl
 

 
Pertinent Results:
ADMISSION:
___ 08:45PM BLOOD WBC-20.6* RBC-4.39* Hgb-12.4* Hct-38.7* 
MCV-88 MCH-28.3 MCHC-32.1 RDW-14.1 Plt ___
___ 08:45PM BLOOD Neuts-82.0* Lymphs-11.0* Monos-2.7 
Eos-3.9 Baso-0.3
___ 08:45PM BLOOD ___ PTT-34.0 ___
___ 08:45PM BLOOD Glucose-121* UreaN-21* Creat-1.5* Na-144 
K-4.3 Cl-105 HCO3-26 AnGap-17
___ 07:29PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:29PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:29PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 07:29PM URINE CastHy-22*
___ 07:29PM URINE Hours-RANDOM UreaN-362 Creat-92 Na-78 
K-61 Cl-81
___ 07:29PM URINE Osmolal-419
URINE CULTURE (Final ___:    NO GROWTH. 

EKG:
Normal sinus rhythm. Baseline artifact. Early precordial R wave 
progression of uncertain significance. Compared to the previous 
tracing of ___ baseline artifact is new. Heart rate has 
increased. Otherwise, no diagnostic change 

HEAD CT:
IMPRESSION: 
No acute intracranial process. 

CT C-SPINE:
IMPRESSION: 
No acute fracture or malalignment of the cervical spine.  Mild 
height loss of both the T1 and T2 vertebral bodies without CT 
findings to 
suggest that they are are acute however are age indeterminate 
and clinical correlation is necessary.  Contour abnormality of 
the sternum may be technical or due to prior injury however 
clinical correlation suggested regarding pain in this region.   

LUMBOSACRAL SPINE:
IMPRESSION: 
Vertebroplasty changes at T11 and L1.  Severe compression 
deformity of T10 and moderate compression of T12.  These are age 
indeterminate.  If desired additional imaging can be performed. 

T-SPINE:
IMPRESSION:  
Vertebroplasty changes at T11 and L1.  Severe compression 
deformity of T10 and moderate compression of T12.  These are age 
indeterminate.  If desired additional imaging can be performed. 

CXR:
IMPRESSION: 
No acute cardiopulmonary process. 

CT CHEST W/O CONTRAST:
IMPRESSION:  
1.  Severe compression deformities of T10 and T12 are age 
indeterminate 
without prior studies for comparison.  Vertebroplasty changes in 
T11 with some retropulsion narrowing the thecal sac.  Otherwise 
no definitively acute traumatic CT findings. 
  
2.  6-mm spiculated semisolid nodule in the left lower lobe for 
which 
short-term interval followup imaging in three months is 
recommended. 
  
HOSPITALIZATION & DISCHARGE:
___ 08:35AM BLOOD WBC-16.7* RBC-4.07* Hgb-10.9* Hct-35.5* 
MCV-87 MCH-26.7* MCHC-30.6* RDW-14.0 Plt ___
___ 05:50PM BLOOD WBC-13.3* RBC-3.94* Hgb-11.2* Hct-34.4* 
MCV-87 MCH-28.4 MCHC-32.6 RDW-14.0 Plt ___
___ 08:10AM BLOOD WBC-14.1* RBC-4.22* Hgb-11.6* Hct-36.3* 
MCV-86 MCH-27.4 MCHC-31.9 RDW-14.1 Plt ___
___ 08:35AM BLOOD Glucose-126* UreaN-18 Creat-1.2 Na-147* 
K-4.2 Cl-110* HCO3-25 AnGap-16
___ 05:50PM BLOOD Glucose-102* UreaN-18 Creat-1.1 Na-143 
K-4.0 Cl-109* HCO3-25 AnGap-13
___ 08:10AM BLOOD Glucose-89 UreaN-18 Creat-1.1 Na-143 
K-4.1 Cl-109* HCO3-25 AnGap-13
___ 08:35AM BLOOD Calcium-8.7 Phos-2.8 Mg-2.2
___ 08:10AM BLOOD Calcium-8.9 Phos-2.6* Mg-2.1
___ 08:45AM BLOOD WBC-14.3* RBC-4.02* Hgb-11.1* Hct-34.1* 
MCV-85 MCH-27.7 MCHC-32.6 RDW-14.1 Plt ___
___ 08:45AM BLOOD Glucose-95 UreaN-17 Creat-1.1 Na-143 
K-3.9 Cl-108 HCO3-24 ___
___ 08:45AM BLOOD Calcium-8.6 Phos-2.5* Mg-2.1
___ 08:10AM BLOOD %HbA1c-6.0* eAG-126*

Discharge labs:

___ 08:00AM BLOOD WBC-13.1* RBC-4.19* Hgb-11.7* Hct-36.4* 
MCV-87 MCH-27.9 MCHC-32.1 RDW-14.5 Plt ___
___ 08:00AM BLOOD Glucose-92 UreaN-16 Creat-0.9 Na-141 
K-4.4 Cl-110* HCO3-22 AnGap-13
___ 08:00AM BLOOD Calcium-8.9 Phos-2.5* Mg-2.2
___ 08:10AM BLOOD %HbA1c-6.0* eAG-126*
 
Brief Hospital Course:
___ y/o M with history of BPH, back pain, and chronic venous 
stasis admitted after a fall.  
 
#Fall: Differential included orthostasis vs. cardiac etiologies 
(arrhythmia vs ACS, which is unlikely given no changes on EKG) 
vs seizure (which is unlikely given no postictal symptoms) vs 
infection (which is unlikely given no focal infectious symptoms 
and negative infectious studies including UA, blood cultures, 
ans CXR) vs mechanical. Unclear whether patient syncopized. 
Occurred in setting of standing up from bed, most likely 
orthostatic. It is possible that patient is somewhat volume 
depleted in setting of increased lasix dose recently (patient 
took 40 mg instead of 20 mg for 3 days recently). Elevated WBC 
was concerning for infection, but patient was without fevers or 
focal infectious symptoms and UA, blood cultures and CXR were 
negative for infection. Leukocytosis may also be suggestive of 
paraneoplastic syndrome given finding of 6mm spiculated nodule 
in left lower lobe.  This nodule needs to be followed up with 
imaging in the outpatient setting. Patient has chronic venous 
stasis with venous ulcers on his lower extremities but the 
ulcers did not appear infected. Patient was also on multiple 
medications which could predispose him to dizziness and falls 
including desmopressin (which he is on for unclear reasons, ? 
for BPH and nocturnal enuresis), cetirizine, oxycontin, 
pramipexole (which are all prescribed by various specialists).  
His cetirizine, amlodipine, pramipexole, desmopressin and 
vesicare were discontinued.  His lasix was held and will be 
restarted at a lower dose of 20 mg PO daily after discharge.  He 
was encouraged to eat and drink. He was monitored on telemetry 
without any events. He was evaluated by physical therapy who 
recommended rehab. 

#Leukocytosis: WBC was elevated to 20 on admission and 
downtrended to 14 during hospitalization.  Infectious workup was 
negative.  Leukocytosis may be related to paraneoplastic 
syndrome given the finding of a 6 mm spiculated mass on chest 
CT. This mass requires follow-up imaging in the outpatient 
setting.  

#Mass on chest CT: Patient was found to have 6 mm spiculated 
mass on chest CT on admission. This will need to be followed up 
in the outpatient setting with repeat imaging.

#Pain: Patient was complaining of neck pain, but imaging was 
negative, and he had no tenderness to palpation along spine. He 
does have baseline back pain (? secondary to previous falls). He 
received standing tylenol and was continued on his home 
oxycontin and lidocaine patch.

# ___: On admission Cr was ___ outpatient NP, patient's Cr 
was normal on recent labs. Patient's lasix was held and patient 
was encouraged to eat and drink.  Cr came down to normal during 
hospitalization.    

# Leg wounds: Patient was seen by vascular medicine clinic 
earlier this month; they found no evidence that peripheral 
arterial disease or venous insufficiency was contributing. 
Ulcers appear to be due to chronic venous stasis and there is no 
evidence of suprainfection.  Patient received wound care per 
previous wound care recs.  

# HTN:
Pt was mildly hypertensive (SBP 130-160 range) on discharge. 
Amlodipine was discontinued and metoprolol dose decreased. Lasix 
was also held. This was thought to be the etiology of HTN. Lasix 
was re-started at lower dose on discharge and we recommend 
continued trending of VS (please consider lisinopril for BP 
control in the future). 
 
# BPH : Patient was continued on home tamsulosin. Solifenacin 
was discontinued.  

# Code: Full    
# Emergency Contact: ___ (nephew) ___, 
___ ___ ___ (friend) cell 
___  
 
TRANSITIONAL ISSUES:
-Please ensure that patient has follow-up (3 months) imaging of 
6 mm spiculated mass found on chest CT
-Please follow-up final blood cultures from ___
-Please ensure patient eats and drinks to remain hydrated
-Please ensure patient's room does not get too hot
-Please minimize the amount of medications (particularly 
sedating medications that increase his risk to fall) patient is 
on to avoid polypharmacy. Please note that vesicare, 
desmopressin, cetirizine, amlodipine and pramipexole were 
discontinued during this hospitalization.
-If patient is on metoprolol for hypertension, please consider 
changing patient to an ACE-inhibitor for hypertension instead
-Please monitor BPs and continue to adjust anti-hypertensive 
regimen 
-Please ensure patient is fit for compression stockings and 
wears compression stockings. Please ensure lower extremity 
elevation.  
- Please continue to monitor and evaluate for etiology of 
leukocytosis (no evidence of infection during this 
hospitalization, differential dx includes paraneoplastic 
process). 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
2. Cetirizine 10 mg oral daily 
3. Sertraline 50 mg PO DAILY 
4. Tamsulosin 0.4 mg PO HS 
5. Alendronate Sodium 70 mg PO QTUES 
6. Multivitamins 1 TAB PO DAILY 
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
8. Cepacol (Menthol) 1 lozenge Other PRN throat pain 
9. Furosemide 20 mg PO DAILY 
10. Lactulose 30 mL PO BID:PRN constipation 
11. mometasone 0.1 % topical BID:PRN rash 
12. Gas Relief (simethicone) 2 capsules oral QID 
13. Lidocaine 5% Patch 1 PTCH TD QAM 
14. Desonide 0.05% Cream 1 Appl TP PRN to itchy area of groin 
___. Amlodipine 5 mg PO DAILY 
16. Vesicare (solifenacin) 10 mg oral daily 
17. Senna 1 TAB PO DAILY 
18. Docusate Sodium 100 mg PO DAILY 
19. TraZODone 25 mg PO HS 
20. pramipexole 1 mg oral qHS 
21. Omeprazole 20 mg PO DAILY 
22. Desmopressin Acetate 0.4 mg PO DAILY 
23. Metoprolol Succinate XL 100 mg PO BID 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Lidocaine 5% Patch 1 PTCH TD QAM 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
RX *oxycodone [OxyContin] 20 mg 1 tablet extended release 12 
hr(s) by mouth daily Disp #*20 Tablet Refills:*0
7. Senna 1 TAB PO DAILY 
8. Sertraline 50 mg PO DAILY 
9. TraZODone 25 mg PO HS 
10. Metoprolol Succinate XL 50 mg PO BID 
11. Tamsulosin 0.4 mg PO HS 
12. Alendronate Sodium 70 mg PO QTUES 
13. Cepacol (Menthol) 1 lozenge Other PRN throat pain 
14. Desonide 0.05% Cream 1 Appl TP PRN to itchy area of groin 
___. Furosemide 20 mg PO DAILY 
16. Gas Relief (simethicone) 2 capsules oral QID 
17. Lactulose 30 mL PO BID:PRN constipation 
18. mometasone 0.1 % topical BID:PRN rash 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: s/p fall
Secondary diagnoses: benign prostatic hypertrophy, chronic 
venous stasis, hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
after a fall at home. You were likely dehydrated.  You were 
encouraged to eat and drink here in the hospital and your 
condition continued to improve. You were also taking several 
medications that are sedating and put you at risk of falling 
prior to admission.  Some of these medications were discontinued 
in order to decrease your risk of falling.

You were also found to have a lung mass and an elevated white 
cell count. We recommend that you follow up closely with your 
primary care doctor to address these findings. 

Please keep your follow-up appointments as below.  Please return 
to the emergency room if you experience fevers, chills, 
confusion, weakness, pain urinating, diarrhea, nausea, vomiting, 
or any other new or concerning symptoms.  

We wish you the best,
Your ___ team 
 
Followup Instructions:
___